US04486438
A suspension of 20.3 g of 2-chloro-butyryl chloride and 12.3 g of 2-amino-3-trifluoromethyl-benzoic acid in toluene was refluxed under reduced pressure for one hour and was then evaporated to dryness under reduced pressure. The oil residue was added to 100 ml of iced water and the mixture was stirred for one hour and was vacuum filtered. The product was washed with water and dried under reduced pressure at 50° C. to obtain 17 g of 2-(1-chloropropyl)-8-trifluoromethyl-4H-3,1-benzoxazine-4-one melting at 65°-70° C.

reactant | 2-chloro-butyryl chloride | 20.3 g | ClC(C(=O)Cl)CC | C4H6Cl2O
reactant | 2-amino-3-trifluoromethyl-benzoic acid | 12.3 g | NC1=C(C(=O)O)C=CC=C1C(F)(F)F | C8H6F3NO2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 2-(1-chloropropyl)-8-trifluoromethyl-4H-3,1-benzoxazine-4-one | 17 g | ClC(CC)C1=NC2=C(C(O1)=O)C=CC=C2C(F)(F)F | C12H9ClF3NO2
